US05023364
1) Ethyl 4-(6-acetyl-3-benzyloxy-2-propylphenoxy)butanoate
A mixture of 4'-benzyloxy-2'-hydroxy-3'-propylacetophenone (3.0 g), anhydrous potassium carbonate (2.9 g), potassium iodide (0.5 g) in N,N-dimethylformamide (40 ml) was stirred at 100° C. To this mixture was added ethyl 4-bromobutyrate (3.1 g) dropwise under stirring and the mixture was stirred for 8 hours. This mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and evaporated. The resulting residue was purified by silica gel column chromatography, eluting with benzene-ethyl acetate (20:1), to give the title compound (2.2 g, 52.3%) as brown oil.

reactant | 4'-benzyloxy-2'-hydroxy-3'-propylacetophenone | 3.0 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)C(C)=O)O)CCC | C18H20O3
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | ethyl 4-bromobutyrate | 3.1 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-(6-acetyl-3-benzyloxy-2-propylphenoxy)butanoate | 2.2 g, 52.3% | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)OCC1=CC=CC=C1 | C24H30O5
